US08865704B2
3-[trans-4-(4-Isobutyryl-piperazine-1-carbonyl)-cyclohexylmethyl]-6-methoxy-1H-quinazoline-2,4-dione
A solution of 2-amino-N-[trans-4-(4-isobutyryl-piperazine-1-carbonyl)-cyclohexylmethyl]-5-methoxy-benzamide (156 mg, 0.35 mmol) and 1,1-carbonyldiimidazole (130 mg, 0.8 mmol) in THF (4 mL) was irradiated with microwave at 150° C. (250 W) for 20 minutes. The desired product precipitated from the reaction mixture and was filtered. 85 mg of the titled compound were obtained (yield 52%).

reactant | 2-amino-N-[trans-4-(4-isobutyryl-piperazine-1-carbonyl)-cyclohexylmethyl]-5-methoxy-benzamide | 0.35 mmol, 156 mg | NC1=C(C(=O)NC[C@@H]2CC[C@H](CC2)C(=O)N2CCN(CC2)C(C(C)C)=O)C=C(C=C1)OC | C24H36N4O4
reactant | THF | 4 mL | C1CCOC1 | C4H8O
product | 3-[trans-4-(4-Isobutyryl-piperazine-1-carbonyl)-cyclohexylmethyl]-6-methoxy-1H-quinazoline-2,4-dione | 85 mg, yield 52% | C(C(C)C)(=O)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)CN1C(NC2=CC=C(C=C2C1=O)OC)=O | C25H34N4O5
